US07550474B2
a. N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(6-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide Hydrochloride
Prepared from N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(6-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide, as described in the previous step, using the protocol given in Example 1m, except the product collected by filtration was not recrystallized. 1H NMR (CD3OD) δ 8.38 (m, 1H), 7.91 (m, 2H), 7.33 (d, J=8.73 Hz, 1H), 6.92 (t, J=8.65 Hz, 1H), 4.20 (t, J=13.40 Hz, 2H), 3.96 (t, J=5.37 Hz, 2H), 3.78 (d, J=1.91 Hz, 2H), 3.52 (t, J=5.33 Hz, 2H), 2.79 (s, 3H); LC/MS (m/z) [M+1]+ 450.4 (calculated for C20H22F3N7O2, 449.18). Elem. Anal. Calc.: C, 45.99; H, 4.63; N, 18.77; Cl, 13.57. Found: C, 45.97; H, 4.40; N, 18.60; Cl, 12.39. Karl Fischer % water, 1.42. One mole free base contains 1.83 mol HCl and 0.41 mol water.

reactant | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(6-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC(=CC=C1)C)(F)F)F)=O | C20H22F3N7O2
reactant | HCl | 1.83 mol | Cl | ClH
reactant | water | 0.41 mol | O | H2O
product | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(6-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide Hydrochloride | Cl.C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC(=CC=C1)C)(F)F)F)=O | InChI=1S/C20H22F3N7O2.ClH/c1-12-3-2-4-16(29-12)20(22,23)11-28-15-6-5-13(10-24)14(18(15)21)9-17(31)27-7-8-32-30-19(25)26;/h2-6,28H,7-9,11H2,1H3,(H,27,31)(H4,25,26,30);1H
